US05756475
N,N'-bis{[N-(3,4-diethoxybenzyl)]-3-aminopropyl}piperazine
The title compound was prepared by a similar way as in Preparation Example 1, except that 1,4-bis(3-aminopropyl)piperazine was used instead of trans-1,2-cyclohexane diamine and 3,4-diethoxybenzaldehyde was used instead of veratraldehyde.

reactant | 1,4-bis(3-aminopropyl)piperazine | NCCCN1CCN(CC1)CCCN | C10H24N4
reactant | 3,4-diethoxybenzaldehyde | C(C)OC=1C=C(C=O)C=CC1OCC | C11H14O3
product | N,N'-bis{[N-(3,4-diethoxybenzyl)]-3-aminopropyl}piperazine | Yield=80% | C(C)OC=1C=C(CNCCCN2CCN(CC2)CCCNCC2=CC(=C(C=C2)OCC)OCC)C=CC1OCC | C32H52N4O4
